US07138417B2
Analogously to Example 2, ethyl 3-amino-3-(3,5-dichlorophenyl)propionate is reacted with 3-benzyloxy-2-[3-(pyridin-2-ylamino)propoxycarbonylamino]-propionic acid and purified by preparative HPLC, giving 3-{3-benzyloxy-2-[3-(pyridin-2-ylamino)propoxycarbonylamino]propanoylamino}-3-(3,5-dichlorophenyl)propionic acid, RT 1.598 min, FAB-MS (M+H)+ 590.

reactant | ethyl 3-amino-3-(3,5-dichlorophenyl)propionate | NC(CC(=O)OCC)C1=CC(=CC(=C1)Cl)Cl | C11H13Cl2NO2
reactant | 3-benzyloxy-2-[3-(pyridin-2-ylamino)propoxycarbonylamino]-propionic acid | C(C1=CC=CC=C1)OCC(C(=O)O)NC(=O)OCCCNC1=NC=CC=C1 | C19H23N3O5
product | 3-{3-benzyloxy-2-[3-(pyridin-2-ylamino)propoxycarbonylamino]propanoylamino}-3-(3,5-dichlorophenyl)propionic acid | C(C1=CC=CC=C1)OCC(C(=O)NC(CC(=O)O)C1=CC(=CC(=C1)Cl)Cl)NC(=O)OCCCNC1=NC=CC=C1 | C28H30Cl2N4O6
